US08664220B2
Step 2: 1-[4′-(4-{[1-(2-Chloro-6-fluoro-benzyl)-1H-[1,2,3]triazol-4-yl]-hydroxy-methyl}-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 10, using [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-[1-(2-chloro-6-fluoro-benzyl)-1H-[1,2,3]triazol-4-yl]-methanol and 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester.

reactant | [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-[1-(2-chloro-6-fluoro-benzyl)-1H-[1,2,3]triazol-4-yl]-methanol | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(O)C=1N=NN(C1)CC1=C(C=CC=C1F)Cl | C20H15BrClFN4O2
reactant | 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H25BO4
product | 1-[4′-(4-{[1-(2-Chloro-6-fluoro-benzyl)-1H-[1,2,3]triazol-4-yl]-hydroxy-methyl}-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C(O)C=1N=NN(C1)CC1=C(C=CC=C1F)Cl | C32H28ClFN4O4
